### PR TITLE
feat(ErdosProblem/409): new variant based on Tao's comment

### PR DESCRIPTION
**Pull request by mo271**
The second part of the sigma function variant (part ii) is updated to reflect a question suggested by Terry Tao: whether iterates of n -> sigma(n) - 1 always reach a prime. The third part of the sigma function variant (part iii) has been removed.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/409.lean [hunk 1]
```diff
@@ -147,20 +147,12 @@ theorem erdos_409.variants.sigma.parts.i.isLittleO (c : ℕ → ℕ)
...
-  sorry
-
-/--
-What is the density of $n$ which reach any fixed prime under the iteration $n\mapsto\sigma(n) - 1$?
--/
-@[category research open, AMS 11]
-theorem erdos_409.variants.sigma.parts.iii (p : ℕ) (h : p.Prime) (α : ℝ)
-    (hα : { n | ∃ i, (σ 1 · - 1)^[i] n = p }.HasDensity α) :
-    α = answer(sorry) := by
+    answer(sorry) ↔ (∀ n > 1, ∃ i, (σ 1 · - 1)^[i] n |>.Prime)  := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/409.lean]:
```suggestion
    answer(sorry) ↔ ∀ n > 1, ∃ i, (σ 1 · - 1)^[i] n |>.Prime := by
```

File: FormalConjectures/ErdosProblems/409.lean [hunk 2]
```diff
@@ -147,20 +147,12 @@ theorem erdos_409.variants.sigma.parts.i.isLittleO (c : ℕ → ℕ)
   sorry
 
 /--
-Can infinitely many $n$ reach the same prime under the iteration $n\mapsto\sigma(n) - 1$?
+As pointed out by Terry Tao in a comment, is seems the right question is:
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/409.lean]:
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
